* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE06\LTspice\CA\TBJ04CA.asc
Rb N002 N003 {Rb}
Vcc N001 0 {Vcc}
Q1 N002 N003 0 0 TBJ
Ci N003 CAin {Cx}
Co CAout N002 {Cx}
Vca CAin 0 SINE(0 0.01m 10k)
RL CAout 0 10Meg
Ra N002 N001 {Ra}
RB1 N005 N006 {Rb}
Vcc1 N004 0 {Vcc}
Q2 N005 N006 0 0 TBJ
Ci1 N006 0 {Cx}
Co1 CAout2 N005 {Cx}
Vca1 CAout2 0 SINE(0 0.1m 10k)
RA1 N005 N004 {Ra}
.model NPN NPN
.model PNP PNP
.lib C:\Users\ruseler\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 0.01 0
.param Vcc=20 Rb=470k Ra=150 Cx=100e-6
.model TBJ NPN(IS=15F BF=150 VAF=150)
.meas Vipp PP V(CAin)
.meas Iipp PP I(Ci)
.meas Zi param Vipp/Iipp
.meas Vopp PP V(CAout)
.meas Av param -Vopp/Vipp
.meas Vopp2 PP V(CAout2)
.meas Iopp2 PP I(Co1)
.meas Zo param Vopp2/Iopp2
.meas re param Rpiq1tbj/BetaDCq1tbj
.meas rx param Ra*Roq1tbj/(Ra+Roq1tbj)
.meas avcalc param 1+Rb*(zicalc-BetaDCq1tbj*re)/(zicalc*BetaDCq1tbj*re)
.meas zocalc param rx*Rb/(rx+Rb)
.meas zicalc param BetaDCq1tbj*re*(rx+Rb)/(BetaDCq1tbj*(re+rx)+Rb+rx)
.backanno
.end
